US07205302B2
5,6-diphenyl-2-(ethylamino)pyrazine
1.00 g of 2-chloro-5,6-diphenylpyrazine was added to 18.7 ml of 2M ethylamine in methanol and the mixture was reacted in a sealed tube at 80° C. for 16 hours. After cooling, 12 ml of a 2M ethylaminemethanol solution was further added, followed by continuous stirring in the sealed tube at 90° C. for 17.5 hours and further stirring at room temperature for 46 hours. After the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography to obtain 531 mg of the desired compound as a pale yellow crystal having a melting point of 121 to 123° C.

reactant | 2-chloro-5,6-diphenylpyrazine | 1.00 g | ClC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
reactant | ethylamine | 2M, 18.7 ml | C(C)N | C2H7N
solvent | methanol | CO | CH4O
product | 5,6-diphenyl-2-(ethylamino)pyrazine | 531 mg | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)NCC | C18H17N3
